US04937343
Preparation of 2-(4-(4-(5-phenyl-2-pyrimidinyl)-1-piperazinyl)butyl)-5,6-dichloroisoindole-1,3(2H)dione
0.005 mol of 4,5-dichlorophthalic anhydride and 0.005 mol of 1-(4-aminobutyl)-4-(5-phenyl-2-pyrimidinyl)-piperazine in 20 ml of absolute pyridine are boiled under reflux, under an atmosphere of N2, for several hours. After cooling, the product which has crystallised out is filtered off and washed with isopropyl ether.

reactant | 4,5-dichlorophthalic anhydride | 0.005 mol | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
reactant | 1-(4-aminobutyl)-4-(5-phenyl-2-pyrimidinyl)-piperazine | 0.005 mol | NCCCCN1CCN(CC1)C1=NC=C(C=N1)C1=CC=CC=C1 | C18H25N5
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-(4-(5-phenyl-2-pyrimidinyl)-1-piperazinyl)butyl)-5,6-dichloroisoindole-1,3(2H)dione | C1(=CC=CC=C1)C=1C=NC(=NC1)N1CCN(CC1)CCCCN1C(C2=CC(=C(C=C2C1=O)Cl)Cl)=O | C26H25Cl2N5O2
